* source PROJ
R_R_var         N15705 VCC_REF {1.5k*0.5+.001}
X_U1B         N19455 N15705 VCC_REF 0 N28984 LM324
V_V1         VCC_REF 0 5
R_R6         0 N15705  0.5k TC=0,0 
X_U2B         N15797 N15705 VCC_REF 0 N28868 LM324
R_LDR1         N19455 0 {2k*0.5+.001}
R_R7         VCC_REF N19455  1k TC=0,0 
R_LDR2         N15797 0 {200*0.5+.001}
R_R8         VCC_REF N15797  1k TC=0,0 
X_U3A         N28984 N28984 N29410 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N28868 N28868 N29414 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_Q1         N29671 N292801 0 awb2n2222a PARAMS:                               
+              
X_Q2         N29629 N293241 0 awb2n2222a PARAMS:                               
+              
R_R9         N29410 N292801  1k TC=0,0 
R_R10         N29414 N293241  1k TC=0,0 
R_R11         N29671 VCC_REF  100 TC=0,0 
R_R12         N29629 VCC_REF  100 TC=0,0 
R_R13         N29629 N29671  100 TC=0,0 
